### PR TITLE
feat(ErdosProblems): 158

### LINKED ISSUE #393: Erdős Problem 158
### What is the conjecture
    
https://www.erdosproblems.com/158

  Let $A\subset \mathbb{N}$ be an infinite set such that, for any $n$, there are most $2$ solutions to $a+b=n$ with $a\leq b$. Must
$$\liminf_{N\to\infty}\frac{\lvert A\cap \\{1,\ldots,N\\}\rvert}{N^{1/2}}=0?$$

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #393

Formalized with help from Aristotle. I'll golf the proof of `erdos_158.isSidon` later.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/158.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+ - [ESS94] Erdős, P. and Sárközy, A. and Sós, T., On Sum Sets of Sidon Sets, I. Journal of Number
+    Theory (1994), 329-347.
+-/
+
+open Cardinal Filter ENNReal
+
+/-- A set `A ⊆ ℕ` is said to be a `B₂[g]` set if for all `n`, the equation
+`a + a' = n, a ≤ a', a, a' ∈ A` has at most `g` solutions. This is defined in [ESS94]. -/
+def B2 (g : ℕ) (A : Set ℕ) : Prop :=
+  ∀ n, #{x : ℕ × ℕ | x.1 + x.2 = n ∧ x.1 ≤ x.2 ∧ x.1 ∈ A ∧ x.2 ∈ A} ≤ g
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/158.lean]:
```suggestion
def B2 (g : ℕ) (A : Set ℕ) : Prop :=
  ∀ n, {x : ℕ × ℕ | x.1 + x.2 = n ∧ x.1 ≤ x.2 ∧ x.1 ∈ A ∧ x.2 ∈ A}.encard ≤ g
```
is enough and more appropriate

File: FormalConjectures/ErdosProblems/158.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+
+/-- A Sidon set is `B₂[1]`. -/
+@[category API, AMS 5]
+lemma IsSidon.B2 (A : Set ℕ) (hA : IsSidon A) : B2 1 A := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/158.lean]: Could you show this is an iff?

File: FormalConjectures/ErdosProblems/158.lean [hunk 3]
```diff
@@ -0,0 +1,79 @@
...
+  refine fun n => le_one_iff_subsingleton.2 (subsingleton_iff.2 fun ⟨x, h, p, q⟩ ⟨y, r, s, t⟩ => ?_)
+  have := hA x.1 q.1 y.1 t.1 x.2 q.2 y.2 t.2 (h.trans r.symm)
+  grind
+
+namespace Erdos158
+
+/-- Let `A` be an infinite `B₂[2]` set. Must `liminf |A ∩ {1, ..., N}|/√N = 0`? -/
+@[category research open, AMS 5]
+theorem erdos_158.B22 : answer(sorry) ↔ ∀ A : Set ℕ, A.Infinite → B2 2 A →
+    liminf (fun N : ℕ => (A ∩ (Finset.range N)).ncard / √N) atTop = 0 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/158.lean]:
```suggestion
    liminf (fun N : ℕ => (A ∩ .Iio N).ncard / √N) atTop = 0 := by
```
Same below

**Review by YaelDillies — COMMENTED** [review]
Looks good to me. Will merge once you've cleaned up the proof!

File: FormalConjectures/ErdosProblems/158.lean [hunk 4]
```diff
@@ -25,48 +25,62 @@ import FormalConjectures.Util.ProblemImports
...
   ∀ n, {x : ℕ × ℕ | x.1 + x.2 = n ∧ x.1 ≤ x.2 ∧ x.1 ∈ A ∧ x.2 ∈ A}.encard ≤ g
 
-/-- A Sidon set is `B₂[1]`. -/
+/-- A set is Sidon iff it is `B₂[1]`. -/
 @[category API, AMS 5]
-lemma IsSidon.B2 (A : Set ℕ) (hA : IsSidon A) : B2 1 A := by
-  refine fun n => le_one_iff_subsingleton.2 (subsingleton_iff.2 fun ⟨x, h, p, q⟩ ⟨y, r, s, t⟩ => ?_)
-  have := hA x.1 q.1 y.1 t.1 x.2 q.2 y.2 t.2 (h.trans r.symm)
-  grind
+lemma IsSidon.B2 (A : Set ℕ) : IsSidon A ↔ B2 1 A := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/158.lean]:
```suggestion
@[simp] lemma b2_one {A : Set ℕ} : B2 1 A ↔ IsSidon A := by
```

File: FormalConjectures/ErdosProblems/158.lean [hunk 5]
```diff
@@ -0,0 +1,93 @@
...
+
+/-- A set `A ⊆ ℕ` is said to be a `B₂[g]` set if for all `n`, the equation
+`a + a' = n, a ≤ a', a, a' ∈ A` has at most `g` solutions. This is defined in [ESS94]. -/
+def B2 (g : ℕ) (A : Set ℕ) : Prop :=
+  ∀ n, {x : ℕ × ℕ | x.1 + x.2 = n ∧ x.1 ≤ x.2 ∧ x.1 ∈ A ∧ x.2 ∈ A}.encard ≤ g
+
+/-- A set is Sidon iff it is `B₂[1]`. -/
+@[category API, AMS 5]
+@[simp] lemma b2_one {A : Set ℕ} : B2 1 A ↔ IsSidon A := by
+  refine ⟨fun hA n => ?_, fun hB => fun i hi j hj k hk l hl h => ?_⟩
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/158.lean]: You'll need to swap the proofs. Also just so you know, there's this rather convenient style for iffs:
```suggestion
@[simp] lemma b2_one {A : Set ℕ} : B2 1 A ↔ IsSidon A where
  mp hA n := sorry
  mpr hB i hi j hj k hk l hl h := sorry
```

**Comment by CoolRmal** [comment]
I used `x ^ (1 / 2)` instead of `√x` because
1. It aligns with the expression used by Erdos in his paper.
2. It simplifies the proof.

File: FormalConjectures/ErdosProblems/158.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
...
+    · have := Set.encard_le_one_iff.1 (hB (j + l)) ⟨j, l⟩ ⟨k, i⟩ ⟨rfl, hp, hj, hl⟩ ?_
+      · grind
+      · exact ⟨by linarith, by linarith, hk, hi⟩
+    · have := Set.encard_le_one_iff.1 (hB (l + j)) ⟨l, j⟩ ⟨i, k⟩ ⟨rfl, by linarith, hl, hj⟩ ?_
+      · grind
+      · exact ⟨by linarith, hq, hi, hk⟩
+    · have := Set.encard_le_one_iff.1 (hB (j + l)) ⟨l, j⟩ ⟨k, i⟩ ?_ ?_
+      · grind
+      · exact ⟨by linarith, by linarith, hl, hj⟩
+      · exact ⟨by linarith, by linarith, hk, hi⟩
```
Comment (CoolRmal) [inline FormalConjectures/ErdosProblems/158.lean]: This is pretty repetitive, but I don't know a good way to simplify this.

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/158.lean]: I've pushed a golf. You shoud learn about `wlog` 😉

**Review by YaelDillies — APPROVED** [review]
Thanks!

File: FormalConjectures/ErdosProblems/158.lean (hunk 6 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/158.lean]: Thx for teaching me a new tactic! Indeed I will begin the proof of this in natural language by saying WLOG...
